US04742052
To 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzaldehyde (1.5 g) in acetone (30 ml) was added Jones' reagent with ice-cooling, and the mixture was stirred for 2 hours. After addition of methanol (1.5 ml), the mixture was diluted with ethyl acetate, washed with water, dried over anhydrous sodium sulfate and evaporated to give 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzoic acid

reactant | 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzaldehyde | 1.5 g | [N+](=O)([O-])C1=CC=C(COC(=O)NCC=2C=C(C=O)C=CC2)C=C1 | C16H14N2O5
reactant | Jones' reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | methanol | 1.5 ml | CO | CH4O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(p-nitrobenzyloxycarbonyl)aminomethylbenzoic acid | [N+](=O)([O-])C1=CC=C(COC(=O)NCC=2C=C(C(=O)O)C=CC2)C=C1 | C16H14N2O6
